US08207168B2
A solution of 2.47 g of 4-(4-methoxybenzoyl)-5-methylisoxazole-3-carboxylic acid ethyl ester (8.54 mmol) and 0.598 mL of hydrazine monohydrate (12.0 mmol) in 18.4 mL ethanol was stirred at room temperature for 19 hours. The heterogeneous reaction was cooled in an ice bath then filtered off the white solid, washing with cold ethanol then diethyl ether. Dried on under high vacuum to give 2.06 g (92%) of 4-(4-methoxyphenyl)-3-methyl-6 h-isoxazolo[3,4-d]pyridazin-7-one.

reactant | 4-(4-methoxybenzoyl)-5-methylisoxazole-3-carboxylic acid ethyl ester | 8.54 mmol, 2.47 g | C(C)OC(=O)C1=NOC(=C1C(C1=CC=C(C=C1)OC)=O)C | C15H15NO5
reactant | hydrazine monohydrate | 12.0 mmol, 0.598 mL | O.NN
solvent | ethanol | 18.4 mL | C(C)O | C2H6O
product | 4-(4-methoxyphenyl)-3-methyl-6 h-isoxazolo[3,4-d]pyridazin-7-one | 2.06 g, 92% | COC1=CC=C(C=C1)C=1C=2C(C(NN1)=O)=NOC2C | C13H11N3O3
